US07348438B2
3-(5,6-dichloro-1H-benzoimidazol-2-yl)-3-hydroxy-butyronitrile
CH3CN was added to a solution of n-butyl lithium in THF (8 ml) at −78° C. and the mixture was stirred at −78° C. for 45 minutes. To this solution was added 1-(5,6-dichloro-1H-benzimidazol-2-yl)-ethanone in THF (6 ml) and the resulting mixture was stirred at −78° C. for an addition ½ hour. After stirring at 0° C. for 6 hrs, water was added, the resulting solution was extracted with EtOAc, the organic layer was washed with brine and then dried over anhydrous Na2SO4. Solvent was distilled off under reduced pressure. Column chromatography (silica gel, EtOAc/hexanes 10% to 50%) yielded the title product as an off-white solid.

reactant | CH3CN | CC#N | C2H3N
reactant | n-butyl lithium | C(CCC)[Li]
reactant | 1-(5,6-dichloro-1H-benzimidazol-2-yl)-ethanone | ClC1=CC2=C(NC(=N2)C(C)=O)C=C1Cl | C9H6Cl2N2O
reactant | water | O | H2O
solvent | THF | 8 ml | C1CCOC1 | C4H8O
solvent | THF | 6 ml | C1CCOC1 | C4H8O
product | 3-(5,6-dichloro-1H-benzoimidazol-2-yl)-3-hydroxy-butyronitrile | ClC1=CC2=C(NC(=N2)C(CC#N)(C)O)C=C1Cl | C11H9Cl2N3O
